US04781927
A. N-t-butoxycarbonyl-1-aminocyclopropanecarboxylic acid (1)
To a solution of 1-aminocyclopropanecarboxylic acid (3.03 g) in saturated aqueous sodium bicarbonate (150 ml) was added a solution of di-t-butyldicarbonate (9.82 g) in t-butanol (50 ml), and the resulting mixture was stirred overnight. Water was then added and the mixture was washed with ethyl acetate. The aqueous phase was separated, made acid to pH 1 with concentrated hydrochloric acid and extracted twice with ethyl acetate. The combined extracts were washed with saturated sodium chloride, dried over magnesium sulfate, and the solvent was evaporated to yield a white solid. (4.77 g, 86%).

reactant | 1-aminocyclopropanecarboxylic acid | 3.03 g | NC1(CC1)C(=O)O | C4H7NO2
reactant | di-t-butyldicarbonate | 9.82 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | sodium bicarbonate | 150 ml | C([O-])(O)=O.[Na+]
solvent | t-butanol | 50 ml | C(C)(C)(C)O | C4H10O
product | N-t-butoxycarbonyl-1-aminocyclopropanecarboxylic acid | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)O | C9H15NO4
